US07645757B2
5.5. 3-{3-[6-(4-chlorophenyl)pyrimidin-4-yl]propyl}-1,3-oxazolidine-2,4-dione
0.4 ml of a 40% solution of diethyl azodicarboxylate (0.9 mmol) in toluene is added to a solution, cooled with an ice bath, of 0.111 g (0.44 mmol) of 3-[6-(4-chlorophenyl)pyrimidin-4-yl]propan-1-ol, prepared in stage 5.4., of 0.077 g (0.76 mmol) of 1,3-oxazolidine-2,4-dione and of 0.235 g (0.89 mmol) of triphenylphosphine in 4 ml of tetrahydrofuran. The mixture is subsequently stirred at ambient temperature overnight. It is taken up in a mixture of ethyl acetate and of water. The organic phase is washed with a saturated aqueous sodium chloride solution, dried over sodium sulphate and evaporated. The residue is purified by chromatography on silica gel, elution being carried out with a 97/3 mixture of dichloromethane and of methanol, to produce 0.117 g (0.35 mmol) of product in the solid form.

reactant | diethyl azodicarboxylate | 0.9 mmol | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-[6-(4-chlorophenyl)pyrimidin-4-yl]propan-1-ol | 0.44 mmol, 0.111 g | ClC1=CC=C(C=C1)C1=CC(=NC=N1)CCCO | C13H13ClN2O
reactant | 1,3-oxazolidine-2,4-dione | 0.76 mmol, 0.077 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | triphenylphosphine | 0.89 mmol, 0.235 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-{3-[6-(4-chlorophenyl)pyrimidin-4-yl]propyl}-1,3-oxazolidine-2,4-dione | 0.35 mmol, 0.117 g | ClC1=CC=C(C=C1)C1=CC(=NC=N1)CCCN1C(OCC1=O)=O | C16H14ClN3O3
